US07112594B2
3-amino-N-(2,4-dichlorophenyl)-6-methoxybenzofuran-2-carboxamide ¼ hydrate
2-Hydroxy-4-methoxybenzonitrile (3 g) synthesized according to the method described in JP-A-8-253466 was dissolved in dimethylformamide (20 ml) and potassium tert-butoxide (5 g) was added under ice-cooling. After stirring for 30 min, 2-chloro-N-(2,4-dichlorophenyl)acetamide was added and the mixture was further stirred for 1 hr. Then water (20 ml) was added and the crystals were precipitated. The crystals were added to ethanol (20 ml) to give a solution, to which sodium ethoxide (0.6 mg) was added. The mixture was stirred at 78° C. for 1 hr and cooled to give the title compound (1.36 g). melting point: 187-188° C.

reactant | 2-Hydroxy-4-methoxybenzonitrile | 3 g | OC1=C(C#N)C=CC(=C1)OC | C8H7NO2
reactant | potassium tert-butoxide | 5 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-N-(2,4-dichlorophenyl)acetamide | ClCC(=O)NC1=C(C=C(C=C1)Cl)Cl | C8H6Cl3NO
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | sodium ethoxide | 0.6 mg | [O-]CC.[Na+]
product | 3-amino-N-(2,4-dichlorophenyl)-6-methoxybenzofuran-2-carboxamide | 1.36 g | NC1=C(OC2=C1C=CC(=C2)OC)C(=O)NC2=C(C=C(C=C2)Cl)Cl | C16H12Cl2N2O3
